US04742057
A mixture of 3-(1-acetyl-4-piperidyl)indoline (41.1 g) and acetic anhydride (300 ml) was refluxed for 3 hours. The excess acetic anhydride was distilled off under reduced pressure and the residue was dissolved in ethyl acetate (500 ml). The solution was washed with a saturated aqueous solution of sodium hydrogen carbonate (100 ml), water (100 ml) and a saturated aqueous solution of sodium chloride successively and dried over magnesium sulfate. The solvent was distilled off and the residue was subjected to column chromatography on silica gel, elution being carried out with a mixture of chloroform and methanol (40:1 V/V) to give 3-(1-acetyl-4-piperidyl)-1-acetylindoline (32 g).

reactant | 3-(1-acetyl-4-piperidyl)indoline | 41.1 g | C(C)(=O)N1CCC(CC1)C1CNC2=CC=CC=C12 | C15H20N2O
reactant | acetic anhydride | 300 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-(1-acetyl-4-piperidyl)-1-acetylindoline | 32 g | C(C)(=O)N1CCC(CC1)C1CN(C2=CC=CC=C12)C(C)=O | C17H22N2O2
